US06452014B1
To a solution of 5,6-dichloro-2-(4-formylphenyl)benzimidazole (291 mg, 1.00 mmol) in tetrahydrofuran (40 mL) were added potassium cyanide (260 mg, 4.00 mmol), sodium hydrogen sulfite (500 mg), and water (10 mL). The mixture was stirred at room temperature for 12 h. Water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried on anhydrous sodium sulfate. The solvent was removed under reduced pressure to afford 2-[4-[cyano(hydroxy)methyl]phenyl]-5,6-dichlorobenzimidazole (278 mg, 87%).

reactant | 5,6-dichloro-2-(4-formylphenyl)benzimidazole | 1.00 mmol, 291 mg | ClC1=CC2=C(N=C(N2)C2=CC=C(C=C2)C=O)C=C1Cl | C14H8Cl2N2O
reactant | potassium cyanide | 4.00 mmol, 260 mg | [C-]#N.[K+]
reactant | sodium hydrogen sulfite | 500 mg | S(=O)(O)[O-].[Na+]
reactant | water | 10 mL | O | H2O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 2-[4-[cyano(hydroxy)methyl]phenyl]-5,6-dichlorobenzimidazole | 278 mg, 87% | C(#N)C(C1=CC=C(C=C1)C=1NC2=C(N1)C=C(C(=C2)Cl)Cl)O | C15H9Cl2N3O
